.subckt oa2111_x1 A1 A2 B1 B2 C X VDD VSS
XOA2111C0_NA10 oa2111_oa211_n A1 oai211_n1 VSS nmos w=1u l=100n
XOA2111C0_NA20 oa2111_oa211_n A2 oai211_n1 VSS nmos w=1u l=100n
XOA2111C0_NB0 oai211_n1 B1 oai211_n2 VSS nmos w=1u l=100n
XOA2111C0_NC0 oai211_n2 B2 VSS VSS nmos w=1u l=100n
XOA2111C0_PA10 oai211_p1a A1 VDD VDD pmos w=2u l=100n
XOA2111C0_PA20 oa2111_oa211_n A2 oai211_p1a VDD pmos w=2u l=100n
XOA2111C0_PB0 oa2111_oa211_n B1 VDD VDD pmos w=2u l=100n
XOA2111C0_PC0 oa2111_oa211_n B2 VDD VDD pmos w=2u l=100n
XOA2111CI0_P0 oa2111_oa211 oa2111_oa211_n VDD VDD pmos w=2u l=100n
XOA2111CI0_N0 oa2111_oa211 oa2111_oa211_n VSS VSS nmos w=1u l=100n
XOA2111N20_PA0 oa2111_and_n oa2111_oa211 VDD VDD pmos w=2u l=100n
XOA2111N20_PB0 oa2111_and_n C VDD VDD pmos w=2u l=100n
XOA2111N20_NB0 oa2111_and_n C nmid_OA2111N20_0 VSS nmos w=1u l=100n
XOA2111N20_NA0 nmid_OA2111N20_0 oa2111_oa211 VSS VSS nmos w=1u l=100n
XOA2111O0_P0 X oa2111_and_n VDD VDD pmos w=2u l=100n
XOA2111O0_N0 X oa2111_and_n VSS VSS nmos w=1u l=100n
.ends oa2111_x1
